US06967208B2
To the product from Part A (95 mg, 0.41 mmol), was added 3-(aminocarbonyl)-1-(3-cyano-4-fluorophenyl)-1H-pyrazole-5-carboxylic acid (94 mg, 0.34 mmol), 3.3 mL of pyridine, and 0.70 mL of DMF. 1,3-Diisopropylcarbodiimide (0.059 mL, 0.38 mmol) was added, and the resulting solution was stirred for 1 h. The red mixture was then poured into 1N aqueous HCl (70 mL) and washed with EtOAc (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, and filtered. Concentration of the filtrate and purification of the resulting residue by radial chromatography (1-5% MeOH in CH2Cl2) gave 1-(3-cyano-4-fluorophenyl)-5-{[5-(2-oxohexahydro-1H-azepin-1-yl)-2,3-dihydro-1H-indol-1-yl]carbonyl}-1H-pyrazole-3-carboxamide (98 mg, 49%) as a brown residue. LC/MS (ESI+): 487.1 (M+H)+. 1H NMR (CD3OD) δ 8.08 (br m, 1H), 7.97 (br d, 1H), 7.87 (br s, 1H), 7.43 (br t, 1H), 7.28 (s, 1H), 7.12 (br s, 1H), 7.00 (br d, 1H), 4.24 (br m, 2H), 3.73 (br s, 2H), 3.16 (br m, 2H), 2.66 (br s, 2H), 1.79 (br s, 6H).

reactant | 3-(aminocarbonyl)-1-(3-cyano-4-fluorophenyl)-1H-pyrazole-5-carboxylic acid | 0.34 mmol, 94 mg | NC(=O)C1=NN(C(=C1)C(=O)O)C1=CC(=C(C=C1)F)C#N | C12H7FN4O3
reactant | pyridine | 3.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-Diisopropylcarbodiimide | 0.38 mmol, 0.059 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | HCl | 1N, 70 mL | Cl | ClH
solvent | DMF | 0.70 mL | CN(C)C=O | C3H7NO
product | 1-(3-cyano-4-fluorophenyl)-5-{[5-(2-oxohexahydro-1H-azepin-1-yl)-2,3-dihydro-1H-indol-1-yl]carbonyl}-1H-pyrazole-3-carboxamide | 98 mg, 49% | C(#N)C=1C=C(C=CC1F)N1N=C(C=C1C(=O)N1CCC2=CC(=CC=C12)N1C(CCCCC1)=O)C(=O)N | C26H23FN6O3
